US08198279B2
3-tert-butyl-1-(4-(methylsulfonyl)phenyl)-1H-pyrazol-5-amine
4-(methylsulfonyl)phenylhydrazine hydrochloride (1.133 g, 5.09 mmol) and 4,4-dimethyl-3-oxopentanenitrile (0.697 g, 5.57 mmol) were weighed into a 100 mL RBF. 0.2 M HCl in EtOH (42 mL) was added and the suspension was heated to reflux for 27 h, during which time all solids gradually dissolved to give a yellow solution. The solution was diluted with 1 M NaOH(aq) (˜16 mL) to pH 12-13, EtOAc (70 mL) was added and the biphasic system was vigorously stirred for 5 min. The organic layer was isolated, dried (MgSO4), filtered and concentrated to give a yellow crystalline solid. Yield: 1.42 g (95%).

reactant | 4-(methylsulfonyl)phenylhydrazine hydrochloride | 5.09 mmol, 1.133 g | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
reactant | 4,4-dimethyl-3-oxopentanenitrile | 5.57 mmol, 0.697 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | HCl | 0.2 M | Cl | ClH
solvent | EtOH | 42 mL | CCO | C2H6O
solvent | NaOH | 1 M, ˜16 mL | [OH-].[Na+]
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 3-tert-butyl-1-(4-(methylsulfonyl)phenyl)-1H-pyrazol-5-amine | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC=C(C=C1)S(=O)(=O)C | C14H19N3O2S
